US05712303
4-(2-Chlorophenyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylthiopyrazolo[3,4-d]pyrimidine
A suspension of 669 mg (1.39 mmol) of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-chlorobenzoyl)-3-methylthiopyrazole in 5 mL of formamide was heated at 150° C. overnight. A pale yellow solid precipitated upon cooling of the reaction mixture. A total of 50 mL of water was added to the stirred suspension to complete the precipitation of the product which was filtered off and washed with water. An inseparable trace of starting material was observed in the product by thin layer chromatography (TLC) and so the above procedure was repeated on the mixture giving a brown solid containing no trace of starting material. Trituration of this solid with methylene chloride gave a pale yellow solution which was concentrated to give the desired product as a white crystalline solid, m.p. 156°-158° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(2-chlorobenzoyl)-3-methylthiopyrazole | 1.39 mmol, 669 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)SC)C(C1=C(C=CC=C1)Cl)=O | C18H11Cl3F3N3OS
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | formamide | 5 mL | C(=O)N | CH3NO
product | 4-(2-Chlorophenyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylthiopyrazolo[3,4-d]pyrimidine | ClC1=C(C=CC=C1)C1=C2C(=NC=N1)N(N=C2SC)C2=C(C=C(C=C2Cl)C(F)(F)F)Cl | C19H10Cl3F3N4S
